US06187802B1
A solution of 1-(benzo[b]thiophen-2-yl)cyclobutanecarbonitrile (7.7 g) in ether (50 ml) was added dropwise at ambient temperature under nitrogen to stirred ethereal methylmagnesium iodide solution (3M; 18 ml). When the addition was complete, the mixture was stirred at reflux temperature for 3.5 hours, then it was cooled to ambient temperature. The resulting solid was collected by filtration, washed well with ether, and added in portions to 5M hydrochloric acid (143 ml). The resulting mixture was heated at 95° C. with occasional stirring for 1.5 hours, then allowed to stand at ambient temperature for 18 h. The product was extracted into dichloromethane (3×200 ml), then the combined extracts were washed with water (2×400 ml) and saturated aqueous sodium hydrogen carbonate solution (400 ml), dried (Na2SO4), and the solvent removed in vacuo to give 1-[1-(benzo[b]thiophen-2 yl)cyclobutyl]ethanone as a brown oil (5 g) which was used without purification.

reactant | 1-(benzo[b]thiophen-2-yl)cyclobutanecarbonitrile | 7.7 g | S1C2=C(C=C1C1(CCC1)C#N)C=CC=C2 | C13H11NS
reactant | methylmagnesium iodide | 3M, 18 ml | C[Mg]I
reactant | ether | 50 ml | CCOCC | C4H10O
product | 1-[1-(benzo[b]thiophen-2 yl)cyclobutyl]ethanone | 5 g | S1C2=C(C=C1C1(CCC1)C(C)=O)C=CC=C2 | C14H14OS
